US05789598
In a four-necked flask was prepared a suspension of 22.9 g (0.1M) of ethyl (Z)-2-(2-amino-4-thiazolyl)-2-methoxyiminoacetate in 25 ml of dimethyl carbonate. To the suspension being stirred at 40° C. were added 0.12 g (0.11 mM) of N,N,N',N'-tetramethylenediamine and 24.0 g (0.11M) of di-t-butyl dicarbonate. The mixture was stirred at room temperature for 15 hours for a reaction. After the completion of the reaction, dimethyl carbonate was removed by room temperature distillation under a vacuum of 10 mmHg. The distilled dimethyl carbonate was 21.0 g and the remaining dimethyl carbonate was 5.7 g. To the reaction mixture were added 50 ml of methanol and a solution of 12.8 g (0.32M) of sodium hydroxide dissolved in 50 ml of water. The mixture was stirred at 40° C. for 15 hours and cooled to room temperature. The resulting crystals were collected by pressure filtration (a nitrogen pressure of about 1.5 atm.) using a filter paper having a pore diameter of 1 μm, and washed with 20 ml of methanol. The washings were combined with the filtrate, and the mixture was subjected to vacuum concentration under the conditions of 60 mmHg and 40° C. to obtain a total weight of 91.1 g. 340 ml of water was added thereto. The resulting solution was neutralized with concentrated hydrochloric acid, which showed substantially no foaming and gave the maximum reaction product volume including the foam and the slurry of 430 ml. The solid precipitated by the neutralization was collected by centrifugation, washed with 250 ml of water, and vacuum-dried at 40° C. to obtain 27.8 g (0.092M) of (Z)-2-(2-t-butoxycarbonylamino-4-thiazolyl)-2-methoxyiminoacetic acid at a yield of 92.3%.

reactant | ethyl (Z)-2-(2-amino-4-thiazolyl)-2-methoxyiminoacetate | 0.1M, 22.9 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC | C8H11N3O3S
reactant | di-t-butyl dicarbonate | 0.11M, 24.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 340 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl carbonate | 25 ml | C(OC)(OC)=O | C3H6O3
product | (Z)-2-(2-t-butoxycarbonylamino-4-thiazolyl)-2-methoxyiminoacetic acid | 0.092M, 27.8 g, yield of 92.3% | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C11H15N3O5S
